US04314071
1,8-octanediol monoacetate
A solution of 1.987 g (13.7 mmoles) of 1,8-octanediol in 25 ml (441 mmoles) of glacial acetic acid was mixed with 200 ml (11.11 moles) of H2O containing 4 ml (72 mmoles) of conc. H2SO4. This mixture was extracted continuously for 40 hours using hexane. The monoester is not very soluble in hexane and hence a mixture of hexane-cyclohexane (in which the monoester, but not the starting diol, is soluble) should be recommended if one is interested in developing this process for 1,8-octanediol. After cooling the hexane to room temperature, ether was added to make the organic layer homogeneous. The ether-hexane layer was then dried over anhydrous potassium carbonate and filtered. Removal of the solvent under reduced pressure afforded 2.38 g (~92% yield) of product, GC analysis of which indicated the presence of 2% starting diol and 4% diester. The purity of the desired monoester was therefore 94%.

reactant | 1,8-octanediol | 13.7 mmoles, 1.987 g | C(CCCCCCCO)O | C8H18O2
reactant | acetic acid | 441 mmoles, 25 ml | C(C)(=O)O | C2H4O2
reactant | H2O | 11.11 moles, 200 ml | O | H2O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 1,8-octanediol monoacetate | 2.38 g, ~92% yield | C(C)(=O)OCCCCCCCCO | C10H20O3
